Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / lisinopril
 
Attending: ___
 
Chief Complaint:
Right parieto-occipital intraparenchymal hemorrhage
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI:
The pt is a ___ year-old R-handed F w/ PMH of HTN, HLD, and 
breast
CA s/p mastectomy who presents from OSH w/ IPH. Hx obtained from
daughter and son at bedside. 

Per children, patient woke up this morning at 6 AM with new 
onset
right supraorbital pain, throbbing in quality and severe in
nature ("it's killing me").  Upon rising from bed, patient
attempted to read a book but could not effectively read the 
words
on the page.  She then tried to watch TV but was concerned whe
she discovered she could not see the colors.  She informed her
children of this, and asked to see her eye specialist. Her
ophthalmologist performed an eye exam and, out of concern,
referred her to a glaucoma specialist whom she saw on the same
day.  The specialist suspected that she had glaucoma but out of
concern he recommended that she present to OSH for further
evaluation and to receive prednisone for glaucoma.  There she
underwent a NCHCT which showed a right parieto-occipital IPH.

During the day family report that patient complained of nausea
and seemed to have more difficulty with gait (saw her run into
things when walking around).  However she had no reported
weakness, numbness/tingling, dysarthria, aphasia, or other focal
neurologic deficits.  Her headache over the day slowly moved
posteriorly to her our posterior occiput.  No personal Hx or
family Hx of stroke.

At baseline, pt is able to walk independently and perform all 
her
ADLs/IADLs. She continues to drive and perform various social
activities in the community.
 
Past Medical History:
PMH/PSH:
HTN
HLD
Breast CA in her ___ s/p mastectomy 
 
Social History:
___
Family History:
___
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=============================================
PHYSICAL EXAMINATION
Vitals:  T: 98.2  HR: 76  BP: 142/88  RR: 16  SaO2: 95% RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
with some difficulty. Speech is fluent with full sentences,
intact repetition, and intact verbal comprehension. Naming
intact.  No paraphasias.  No dysarthria. Normal prosody. Able to
register 3 objects and recall ___ at 5 minutes. No apraxia. R
gaze preference apparent. No left-right confusion. Able to 
follow
both midline and appendicular commands.

- Cranial Nerves: PERRL 2->1 brisk. L homonymous hemianopsia.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. HOH. Palate elevation
symmetric. SCM/Trapezius strength ___ bilaterally. Tongue
midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  3    3     3      4       3
 R  3    3     3      4       3  

Plantar response flexor on R and WD on L

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally, although off target attributed to visual 
impairment.
Intact coordination w/ HKS. Good speed and intact cadence with
rapid alternating movements.

- Gait: Deferred.

======================================
DISCHARGE PHYSICAL EXAM
======================================

___ Exam
24hr vitals: 118/69 - 140/72, HR 55-81, O2 saturation91-100%
overnight, RR ___, T 98.0-98.9
General: Awake, cooperative, pleasant woman
HEENT: NC/AT, no scleral icterus noted, mucous membranes dry, no
lesions noted in oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: rrr, no m/r/g, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema
Skin: No rashes noted
 
Neurologic:
- Mental status: Awake, alert, oriented x 3, some hesitation in 
answering and difficulty with word finding. Able to relate 
interval history. Attentive, able to name ___ backward. Speech 
is fluent with full sentences, intact repetition, and intact 
verbal comprehension. Recognizes faces off riends and family 
members on photos, recognizes colors of objects and photos. 
Naming intact: able to name pen. No paraphasias.  No dysarthria. 
Normal prosody. ___ registration and recall. No apraxia. R gaze 
preference apparent. No left-right confusion. Able to follow 
both midline and appendicular commands.- Cranial Nerves: L pupil 
minimally reactive, R pupil 3->2 brisk. L visual field cut/ L 
homonymous hemianopsia. EOMI, no nystagmus.V1-V3 without 
deficits to light touch bilaterally. No facial movement 
asymmetry. Hard of hearing, but understands verbal instructions 
and conversation. Palate elevation symmetric. SCM/Trapezius 
strength ___ bilaterally. Tongue midline, with normal ROM

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  

L upgoing plantar reflex
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       2+
 R  2+    2+     2+      2+       2+  

- Sensory: No deficits to light touch, vibration, or
proprioception bilaterally.  No extinction to DSS.

- Coordination: On FNF, off target bilaterally, attributed to
visual impairment, improved from prior. Good speed and intact
cadence on finger tap.

- Gait: Deferred.

 
Pertinent Results:
ADMISSION LABS
================
___ 10:05PM BLOOD WBC-10.5* RBC-4.58 Hgb-13.4 Hct-41.2 
MCV-90 MCH-29.3 MCHC-32.5 RDW-14.0 RDWSD-45.7 Plt ___
___ 10:05PM BLOOD Neuts-86.9* Lymphs-11.1* Monos-0.7* 
Eos-0.1* Baso-0.5 Im ___ AbsNeut-9.17* AbsLymp-1.17* 
AbsMono-0.07* AbsEos-0.01* AbsBaso-0.05
___ 10:05PM BLOOD ___ PTT-34.2 ___
___ 10:05PM BLOOD Glucose-149* UreaN-13 Creat-0.8 Na-139 
K-3.9 Cl-98 HCO3-24 AnGap-17
___ 10:05PM BLOOD ALT-13 AST-15 AlkPhos-56 TotBili-0.4
___ 10:05PM BLOOD Albumin-3.8
___ 03:49PM BLOOD Albumin-3.5 Calcium-9.4 Phos-4.2 Mg-1.9 
Cholest-170
___ 03:49PM BLOOD %HbA1c-5.5 eAG-111
___ 03:49PM BLOOD Triglyc-110 HDL-54 CHOL/HD-3.1 LDLcalc-94
___ 03:49PM BLOOD TSH-0.54
___ 03:49PM BLOOD CRP-7.2*
___ 10:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 02:00AM URINE Color-Straw Appear-Hazy* Sp ___
___ 02:00AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 02:00AM URINE RBC-15* WBC-8* Bacteri-NONE Yeast-NONE 
Epi-<1
___ 02:00AM URINE Hours-RANDOM

DISCHARGE LABS
================
___ 06:05AM BLOOD WBC-10.3* RBC-4.36 Hgb-12.6 Hct-39.5 
MCV-91 MCH-28.9 MCHC-31.9* RDW-14.0 RDWSD-46.5* Plt ___
___ 06:05AM BLOOD Plt ___
___ 06:05AM BLOOD Glucose-98 UreaN-20 Creat-0.7 Na-141 
K-4.4 Cl-101 HCO3-25 AnGap-15
___ 06:05AM BLOOD Calcium-9.1 Phos-3.8 Mg-2.0

IMAGING
================
___ CTA HEAD AND CTA NECK
CT head:   
1. Parenchymal hemorrhage centered in the right parietal 
occipital region measuring 6.6 x 3.1 cm (series 2:13) with 
intraventricular extension to the occipital horn of the right 
lateral ventricle. There is mass effect with partial effacement 
of the occipital horn and body of the right lateral ventricle. 
There is no midline shift. 
2. Small volume subarachnoid hemorrhage abutting the probable 
left postcentral gyrus (series 2:13). 

CTA head and neck: 
1. There is no dissection, occlusion, aneurysm (greater than 3 
mm) or 
significant stenosis of the anterior circulation, posterior 
circulation, 
circle of ___, bilateral internal carotid arteries, or 
bilateral vertebral arteries. 
2. There are mild atherosclerotic calcifications of the 
bilateral carotid 
siphons without evidence of significant stenosis. There are 
moderate 
atherosclerotic calcifications within the clinoid and 
supraclinoid portions of the bilateral internal carotid 
arteries.

___ CHEST X-RAY
IMPRESSION: No previous images.  The cardiac silhouette is 
within normal limits and there is tortuosity of the descending 
thoracic aorta.  Minimal indistinctness of pulmonary vessels 
could reflect mild pulmonary vascular congestion. No evidence of 
pleural effusion or acute focal pneumonia. 

___ MR HEAD W AND W/O CONTRAST
IMPRESSION: 
1. Right occipital temporal hematoma is again noted measuring 63 
x 30 mm in the axial plane with mild intraventricular extension. 
 No evidence of 
underlying nodular enhancement to suggest mass lesion.  However, 
follow-up 
examination upon resolution of hematoma is recommended. 
2. Foci of high signal on DWI imaging (although poorly 
correlated on T2 and FLAIR imaging) most likely represent acute 
infarcts and less likely artifact from blood products. 

 
Brief Hospital Course:
Ms. ___ is a ___ yr F w/ hx of HTN, HLD, and Breast CA s/p 
mastectomy who presented from OSH w/ L homononymous hemianopsia 
___ newfound R parieto-occipital IPH. Most likely etiology of 
IPH is cerebral amyloid angiopathy vs less likely mass given 
prior history of breast cancer that will be evaluated with 
follow up MRI in 3 months. 

#ICH
NCHCT demonstrated with R parieto-occipital IPH surrounding 
edema. Antiplatelet therapy and NSAIDs were held in setting of 
bleeding. Her BPs were controlled with hydralazine prn with SBP 
goal <150. Exam notable for a left homononymous hemianopsia in 
the setting of IPH. Patient will likely continue to have visual 
field deficits which persist. Patient and family counseled re: 
lifestyle changes including not driving due to new visual 
baseline, and in agreement with these changes.

#Delirium
Patient became delirious likely related to hospitalization I/s/o 
of IPH vs UTI, latter less likely given UCx with mixed flora c/w 
contamination. 

Transitional Issues:
-ASA held during this admission, please, restart do not restart 
until indicated for cardiovascular risk factors.
-Leukocytosis stable at 10 on discharge. Infectious work-up 
unrevealing. Monitor for fevers and ensure this downtrends. 
-Follow up with neurology
-Follow up MRI in 3 months to evaluate for underlying mass

AHA/ASA Core Measures for Intracerebral Hemorrhage 
 1. Dysphagia screening before any PO intake? (x) Yes - () No 
 2. DVT Prophylaxis administered? (x) Yes - () No 
 3. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate] 
 4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
 5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Simvastatin 10 mg PO QPM 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Aspirin 162 mg PO DAILY 

 
Discharge Medications:
1.  Atenolol 25 mg PO DAILY  
2.  Levothyroxine Sodium 50 mcg PO DAILY  
3.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right parieto-occipital IPH

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were diagnosed with an ACUTE HEMORRHAGIC STROKE, a condition 
from bleeding into the brain. The brain is the part of your body 
that controls and directs all the other parts of your body, so 
damage to the brain from being deprived of its blood supply or 
bleeding can result in a variety of symptoms. Stroke can have 
many different causes, so we assessed you for medical conditions 
that might raise your risk of having stroke. In order to prevent 
future strokes, we plan to modify those risk factors. Your risk 
factors are: 
[] cerebral amyloid angiopathy

We are changing your medications as follows: We have stopped 
your aspirin. Please take your other medications as prescribed. 
Please follow up with Neurology as listed below. Please follow 
up with your regular doctor within 14 days of discharge. If you 
experience any of the symptoms below, please seek emergency 
medical attention by calling Emergency Medical Services (dialing 
911). In particular, since stroke can recur, please pay 
attention to the sudden onset and persistence of these symptoms: 


 - Sudden partial or complete loss of vision 
 - Sudden loss of the ability to speak words from your mouth 
 - Sudden loss of the ability to understand others speaking to 
you 
 - Sudden weakness of one side of the body 
 - Sudden drooping of one side of the face 
 - Sudden loss of sensation of one side of the body 

Sincerely, 

Your ___ Neurology Team 
 
Followup Instructions:
___